data/oMe_Silver.jsonl
{"reaction_id": "NR-113_1-C_2-CCCC(C)C_3-C(F)(F)F_4-CCCC(C)C_5-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","level": "medium","name": "Huisgen Cycloaddition","reactants_smiles": ["C(C)#[N+][O-]","CCCC(C)C/C(C(F)(F)F)=C(/CCCC(C)C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2"],"products_smiles": ["C1(C)=NOC(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C1(CCCC(C)C)(C(F)(F)F)"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C)=NOC(CCCC(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C1(CCCC(C)C)(C(F)(F)F)","step_weight": 0,"rationale": "Heat promotes concerted [3+2] cycloaddition as HOMO–LUMO gaps align; the nitrile oxide’s dipolar character and the alkene’s π-system enable synchronous bond formation, yielding a resonance-stabilized isoxazoline ring without intermediates."}],"description": "Under thermal conditions, the 1,3-dipolar cycloaddition between the nitrile oxide and the alkene proceeds via a concerted Huisgen mechanism, forming a five-membered isoxazoline ring. The reaction is driven by favorable orbital overlap and the stability of the heterocycle formed."}
{"reaction_id": "NR-211_1-c1ccc(OC)cc1_2-c1ccc(Cl)cc1_3-c1ccccc1C_4-c1ccoc1","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccc(OC)cc1)c1ccc(Cl)cc1","[C-]#[N+]c1ccccc1C","O=C(O)c1ccoc1"],"products_smiles": ["O=C(c1ccoc1)OC(C(=O)Nc1ccccc1C)(c1ccc(OC)cc1)c1ccc(Cl)cc1"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(OC)cc1)c1ccc(Cl)cc1","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccc(OC)cc1)(c1ccc(Cl)cc1)C(#[N+]c1ccccc1C)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccoc1)OC(=[N]c1ccccc1C)C(c1ccc(OC)cc1)(c1ccc(Cl)cc1)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(c1ccoc1)OC(=[N]c1ccccc1C)C(c1ccc(OC)cc1)(c1ccc(Cl)cc1)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccoc1)OC(C(=O)Nc1ccccc1C)(c1ccc(OC)cc1)c1ccc(Cl)cc1","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
